US06451814B1
4-(4-{2-[(2S)-3-(3-Fluoro-4-hydroxy-phenoxy)-2-hydroxy-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide
4-[4-(2-Aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide formate (0.376 g, 0.87 mmol) was reacted with tert-butyl{2-fluoro-4-[(2S)oxiranylmethoxy] phenoxy} diphenylsilane (0.368 g, 0.87 mmol) according to Procedure G (eluant: 20:1 chloroform-methanol) to give the title compound (0.228 g, 0.271 mmol).

reactant | 4-[4-(2-Aminoethyl)anilino]-N-octyl-1-piperidinecarboxamide formate | 0.87 mmol, 0.376 g | C(=O)O.NCCC1=CC=C(NC2CCN(CC2)C(=O)NCCCCCCCC)C=C1
reactant | tert-butyl{2-fluoro-4-[(2S)oxiranylmethoxy] phenoxy} diphenylsilane | 0.87 mmol, 0.368 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=C(C=C(C=C1)OC[C@H]1OC1)F | C25H27FO3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-(4-{2-[(2S)-3-(3-Fluoro-4-hydroxy-phenoxy)-2-hydroxy-propylamino]-ethyl}-phenylamino)-piperidine-1-carboxylic Acid Octylamide | 0.271 mmol, 0.228 g | C(CCCCCCC)NC(=O)N1CCC(CC1)NC1=CC=C(C=C1)CCNC[C@@H](COC1=CC(=C(C=C1)O)F)O | C31H47FN4O4
